datasets/10k__Tet_Int.csv
SMILES Labelled
"C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C)[O]2.C[NH:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OCC)[O+:10]([Na])C(CCC)C(C)C1O>>[O:10]([Na])C(CCC)C(C)C([C:20](OCC)=[O:21])O 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)CCCCCC)C>>CN([C:20]1(OC(C(C([O:21]1)C)CCCCCC)CCCCCC)[O-:10])C 21=20;20,10=10"
"[H][S:10]C(CC)C(C)C([H])[O][C:20]([O]C)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C)C([H])[O]1)[C:20]1([O:21][H])[O]C 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C(C)[O][C:20]([O]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[O:10]([Na])C(CC)/C(C)=C([C:20]([H])=[O:21])/O>>[O-:21][C:20]1([H])[O+:10]([Na])C(CC)C(C)=C1O 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(CC)[O]2.[H][O:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O:10][H].C[NH+:21]=[C:20]([NH]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]C)([NH]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[NH:10](C)C(C)C([H])N([C:20](OC)=[O:21])C>>[O-:21][C:20]1(OC)[NH+:10](C)C(C)C([H])N1C 10=20;20,21=21"
"[O-:21][C:20]1([H])[O:10]C(CCC)C(O)C1[H]>>[O-:10]C(CCC)C(O)C([C:20]([H])=[O:21])[H] 21=20;20,10=10"
"[OH:10]C(C1=C(C([CH:20](OC)=[OH+:21])O)C=CC=C1)C>>[OH:21][CH:20]2(OC)C(C3=C(C([OH+:10]2)C)C=CC=C3)O 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C([H])[O]1)[C:20]1([O:21][Si](C)(C)(C))[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])[O][C:20]([O]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][O:10]C([H])C(C)C(CC)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(CC)[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][S+:10](C([H])C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[S][H].[Cl-]>>[Cl-].[H][S:10]C([H])C([H])C(C8=CC=CC=C8)[S][C:20]([S][H])=[O+:21][H] 21=20;20,10=10"
"CCC1C(C(O[C:20](N1CC)([O-:10])[O:21]CC)CCCCCC)CC>>CCC1C(C(O[C:20](=[O:10])N1CC)CCCCCC)CC.[O-:21]CC 10=20;20,21=21"
"[O:10]([Na])C(CC)/C(C)=C([C:20](OCC)=[O:21])/[H]>>[O-:21][C:20]1(OCC)[O+:10]([Na])C(CC)C(C)=C1[H] 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[O][CH]([H])C([H])[CH](CC)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH]([H])[CH]([H])C(CC)[S]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"CCN([C:20](=[O:10])OC(C(C([O-:21])C)C)CC)C1=CC=CC=C1>>CCN([C:20]1(OC(C(C([O:21]1)C)C)CC)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"[H][O:10]C(CC)C([H])C(C)[NH][C:20]([O]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(C)[NH]1)[C:20]1([NH:21]CC)[O]C 10=20;20,21=21"
"C[NH:10][H].C[NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]([NH:21]C)([O]C8=CC=CC=C8)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[NH:10](C)C([H])C(C)C(C)C(C)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)C(C)C(C)C([H])[NH+:10]1(C) 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C(C)[CH](C)[O]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)CCCCCC)CC)[O-:10])C>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)CCCCCC)CC)C 10=20;20,21=21"
"[OH:10]C(C)/C([H])=C([C:20]([H])=[OH+:21])/[H]>>[OH:21][C:20]1([H])[OH+:10]C(C)C([H])=C1[H] 10=20;20,21=21"
"CC[S+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C(C)[CH](C)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C(C)[O]2.CC[S:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C8=CC=CC=C8)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][O:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([S]C)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S]C 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])CC.[O-:21]CCCCCC>>CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)[H])CC 21=20;20,10=10"
"[H][O+:10](C(CC)C(CC)[O]1)[C:20]1([NH:21][H])[NH][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C(CC)[O][C:20]([NH][H])=[NH+:21][H] 21=20;20,10=10"
"C1=CC=CC=C1[O+:10]([Na])[C:21]([O-:20])(OC1=CC=CC=C1)OCC>>[O:20]=[C:21](OC1=CC=CC=C1)OCC.C1=CC=CC=C1[O:10][Na] 20=21;21,10=10"
"[NH:10]([H])C([H])C(O)C(C)C(O)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(O)C(C)C(O)C([H])[NH+:10]1([H]) 10=20;20,21=21"
"[H][NH:10][H].C[NH+:21]=[C:20]([NH][H])[O]CC.[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]([NH:21]C)([NH][H])[O]CC 10=20;20,21=21"
"[H][S:10]C([H])C(C)[O][C:20]([O]C)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)[O]1)[C:20]1([O:21][Si](C)(C)(C))[O]C 10=20;20,21=21"
"C9=CC=CC=C9[S:10][H].[H][O+:21]=[C:20]([O]CC)[O][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][H])([O]CC)[O][H] 10=20;20,21=21"
"CC1C(C(O[C:20](N1[H])([O-:10])[O:21]C)[H])C>>CC1C(C(O[C:20](=[O:10])N1[H])[H])C.[O-:21]C 10=20;20,21=21"
